US08492543B2
Synthesis of N-[3-(2-chloro-6,7-dimethoxyquinazolin-4-yl)phenyl]formamide
To a mixture of 2.00 g (7.72 mmol) of 2,4-dichloro-6,7-dimethoxyquinazoline, 2.38 g (9.26 mmol) of N-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]formamide, tetrahydrofuran (50 mL), and 2 M aqueous sodium carbonate solution (10 mL) were added palladium acetate (17.7 mg) and 1,1′-bis(diphenylphosphino)ferrocene (42.8 mg) in this order, and the mixture was stirred at 60° C. for 6 hours. The mixture was allowed to cool, then 5% w/w sodium chloride solution (50 mL) and ethyl acetate (50 mL) were added followed by stirring for 5 minutes, and the insoluble matter was collected by filtration. The filtrate was transferred to a separatory funnel to extract the organic layer. The organic layer was washed twice with 5% w/w sodium chloride solution (50 mL) and then concentrated under reduced pressure. To the concentration residue were added 2-propanol (15 mL) and ethyl acetate (10 mL), and the mixture was suspended by stirring at 50° C. for 2 hours. The suspension was allowed to cool, and then the precipitated crystals were collected by filtration and dried to give 667 mg of a target product. Meanwhile, the insoluble matter collected by filtration was dissolved in a mixed solution of dichloromethane/methanol (300 mL/100 mL), the mixture was filtered to remove the insoluble matter, and the filtrate was concentrated under reduced pressure. To the concentration residue were added 2-propanol (15 mL) and ethyl acetate (10 mL), and the mixture was suspended by stirring at 50° C. for 2 hours. The mixture was allowed to cool, and then the precipitated crystals were collected by filtration and dried to give 1.78 g of a target product. A total of 2.45 g was yielded, and the yield was 91.3%.

reactant | 2,4-dichloro-6,7-dimethoxyquinazoline | 7.72 mmol, 2.00 g | ClC1=NC2=CC(=C(C=C2C(=N1)Cl)OC)OC | C10H8Cl2N2O2
reactant | N-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]formamide | 9.26 mmol, 2.38 g | CC1(OB(OC1(C)C)C=1C=C(C=CC1)NC=O)C | C13H18BNO3
reactant | sodium carbonate | 2 M, 10 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium chloride | 50 mL | [Cl-].[Na+]
catalyst | palladium acetate | 17.7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 42.8 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | N-[3-(2-chloro-6,7-dimethoxyquinazolin-4-yl)phenyl]formamide | 667 mg | ClC1=NC2=CC(=C(C=C2C(=N1)C=1C=C(C=CC1)NC=O)OC)OC | C17H14ClN3O3
